US06350892B1
3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-[trifluoromethanesulfonyloxy]phenyl]propanoic Acid, Methyl Ester
To a solution of 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]-2-hydroxyphenyl]propanoic acid, methyl ester (2.53 g, 6.0 mmol) and dry pyridine (1.94 ml, 24.0 mmol) in dichloromethane (30 ml) at 0° C. was added dropwise trifluoromethanesulfonic anhydride (2.1 ml, 12.0 mmol). After stirring for 20 h at 22° C., the mixture was diluted with ethyl acetate (120 ml), washed with water (3×50 ml), brine (50 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was placed at 0° C. and triturated with diethyl ether. The formed solid (trifluoromethanesulfonic acid salt of the title compound) was dissolved in dichloromethane, washed with sat. sodium bicarbonate, brine and dried over magnesium sulfate. The solvent was removed in vacuo to afford the title compound (2.15 g, 69%) as a brown oil which solidified upon standing.

reactant | 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]-2-hydroxyphenyl]propanoic acid, methyl ester | 6.0 mmol, 2.53 g | C(CCCCCCCCCCC)N(C)CCOC1=CC(=C(C=C1)CCC(=O)OC)O | C25H43NO4
reactant | pyridine | 24.0 mmol, 1.94 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 12.0 mmol, 2.1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | 3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-[trifluoromethanesulfonyloxy]phenyl]propanoic Acid, Methyl Ester | 2.15 g, 69% | C(CCCCCCCCCCC)N(C)CCOC1=CC(=C(C=C1)CCC(=O)OC)OS(=O)(=O)C(F)(F)F | C26H42F3NO6S
